US04030994
2-Methyl-1-(p-methylsulfinylbenzylidene)inden-3-acetic acid (2.25 g.) dissolved in 80 ml. of fluorotrichloromethane was ultraviolet irradiated and stirred at -15° C. for 80 min.; meanwhile 1.2 g. of fluoroxytrifluoromethane was passed in. The residue obtained after evaporation of the solvent was subjected to chromatography on a silica gel column, to give 5-fluoro-2-methyl-1-(p-methylsulfinylbenzylidene)inden-3-acetic acid, m.p. 188°-189° C.

reactant | 2-Methyl-1-(p-methylsulfinylbenzylidene)inden-3-acetic acid | 2.25 g | CC=1C(C2=CC=CC=C2C1CC(=O)O)=CC1=CC=C(C=C1)S(=O)C | C20H18O3S
reactant | fluorotrichloromethane | FC(Cl)(Cl)Cl | CCl3F
reactant | fluoroxytrifluoromethane | FOC(F)(F)F | CF4O
product | 5-fluoro-2-methyl-1-(p-methylsulfinylbenzylidene)inden-3-acetic acid | FC=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C20H17FO3S
